US04673686
N-(1-cyclopentyl-2 -pyrrolidinyl methyl)-2,4-dimethoxy-5-methylsulphonyl benzamide
91 g of 2,4-dimethoxy-5-methylsulphonyl benzoic acid, 400 ml of acetone, 130 ml of water and 48.6 ml of triethylamine are placed in a liter flask fitted with an agitator, a thermometer and a dropping funnel. 47.6 g of isobutyl chloroformate is dripped into the solution obtained, at about 10° C. It is agitated for 40 minutes, then 58.8 g of 1-cyclopentyl-2-aminomethyl-pyrrolidine is poured in drop by drop at about 0° C. A precipitate appears after 30 minutes of agitation at room temperature. It is allowed to react then the precipitate is filtered off, washed with water and dried. 74 g of a crude version of the product is obtained, melting at 198° C.

reactant | 2,4-dimethoxy-5-methylsulphonyl benzoic acid | 91 g | COC1=C(C(=O)O)C=C(C(=C1)OC)S(=O)(=O)C | C10H12O6S
reactant | acetone | 400 ml | CC(=O)C | C3H6O
reactant | isobutyl chloroformate | 47.6 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 1-cyclopentyl-2-aminomethyl-pyrrolidine | 58.8 g | C1(CCCC1)N1C(CCC1)CN | C10H20N2
solvent | triethylamine | 48.6 ml | C(C)N(CC)CC | C6H15N
solvent | water | 130 ml | O | H2O
product | N-(1-cyclopentyl-2 -pyrrolidinyl methyl)-2,4-dimethoxy-5-methylsulphonyl benzamide | C1(CCCC1)N1C(CCC1)CNC(C1=C(C=C(C(=C1)S(=O)(=O)C)OC)OC)=O | C20H30N2O5S
